* NGSPICE file created from test_v2.ext - technology: gf180mcuD

.subckt test_all_tg VDD VSS EN0 EN1 EN2 EN3 EN4 EN5 EN6 EN7 IN0 IN1 IN2 IN3 IN4 IN5
+ IN6 IN7 VOUT Vp
X0 VDD EN3 a_n497_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X1 VDD EN4 a_2235_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X2 IN0 a_n8693_16865# Vp VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X3 IN1 a_n5961_16865# Vp VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X4 IN5 a_4967_16865# VOUT VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X5 Vp EN0 IN0 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X6 VDD EN1 a_n5961_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X7 IN2 a_n3229_16865# Vp VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X8 IN3 a_n497_16865# Vp VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X9 IN4 a_2235_16865# Vp VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X10 IN7 a_10431_16865# VOUT VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X11 VDD EN6 a_7699_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X12 IN6 a_7699_16865# VOUT VDD pfet_05v0 ad=1.155p pd=4.54u as=1.155p ps=4.54u w=1.5u l=0.5u M=6
X13 VDD EN2 a_n3229_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X14 VOUT EN6 IN6 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X15 VOUT EN5 IN5 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X16 VOUT EN7 IN7 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X17 VDD EN7 a_10431_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X18 Vp EN1 IN1 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X19 Vp EN3 IN3 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X20 Vp EN4 IN4 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X21 Vp EN2 IN2 VSS nfet_05v0 ad=1.095p pd=4.46u as=1.095p ps=4.46u w=1.5u l=0.6u M=2
X22 VSS EN4 a_2235_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X23 VSS EN2 a_n3229_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X24 VSS EN3 a_n497_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X25 VSS EN5 a_4967_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X26 VSS EN6 a_7699_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X27 VSS EN7 a_10431_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X28 VSS EN0 a_n8693_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X29 VDD EN5 a_4967_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X30 VSS EN1 a_n5961_16865# VSS nfet_05v0 ad=0.72p pd=3.88u as=0.365p ps=2.46u w=0.5u l=0.6u
X31 VDD EN0 a_n8693_16865# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
.ends

.subckt test_decoder$1 VDD VSS EN SEL[0] SEL[1] SEL[2] EN0 EN1 EN2 EN3 EN4 EN5 EN6
+ EN7
X0 VSS a_n56986_5965# a_n56986_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X1 VDD a_n47266_6815# a_n47266_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X2 VDD SEL[1] a_n44836_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X3 VDD a_n47266_3415# a_n47266_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X4 VDD a_n49696_5115# a_n49696_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X5 VSS a_n52126_5115# a_n52126_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X6 VDD a_n39976_5115# a_n39976_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X7 VSS EN a_n49696_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X8 VDD EN a_n54556_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X9 a_n56986_8515# a_n56986_6815# a_n56986_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X10 VDD a_n42406_6815# a_n42406_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X11 VSS EN a_n44836_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X12 VSS a_n54556_5115# a_n54556_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X13 VDD SEL[2] a_n42406_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X14 a_n52126_8515# a_n52126_6815# a_n52126_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X15 VDD a_n44836_5115# a_n44836_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X16 VSS a_n39976_5115# a_n39976_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X17 VDD SEL[1] a_n49696_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X18 VSS EN a_n47266_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X19 VSS a_n49696_7665# EN3 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X20 VDD SEL[1] a_n39976_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X21 VSS EN a_n42406_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X22 VSS a_n44836_7665# EN5 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X23 a_n54556_8515# a_n54556_6815# a_n54556_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X24 VDD SEL[1] a_n47266_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X25 VDD a_n56986_6815# a_n56986_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X26 VDD a_n56986_3415# a_n56986_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X27 a_n39976_8515# a_n39976_6815# a_n39976_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X28 VDD a_n44836_1715# a_n44836_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X29 VSS a_n47266_7665# EN4 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X30 VSS a_n42406_7665# EN6 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X31 VDD SEL[0] a_n42406_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X32 VDD a_n47266_5115# a_n47266_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X33 VDD a_n52126_6815# a_n52126_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X34 VDD a_n52126_2565# a_n52126_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X35 VSS a_n49696_5115# a_n49696_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X36 VSS a_n44836_5115# a_n44836_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X37 VSS SEL[2] a_n56986_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X38 VSS a_n56986_4265# a_n56986_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X39 VDD a_n42406_5115# a_n42406_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X40 VDD SEL[0] a_n56986_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X41 a_n52126_5965# a_n52126_4265# a_n52126_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X42 VSS a_n51980_5905# a_n52126_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X43 VDD a_n47266_1715# a_n47266_3415# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X44 VDD SEL[2] a_n49696_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X45 a_n49696_8515# a_n49696_6815# a_n49696_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X46 VDD SEL[2] a_n39976_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X47 VSS a_n47266_5115# a_n47266_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X48 a_n44836_8515# a_n44836_6815# a_n44836_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X49 VDD a_n54556_6815# a_n54556_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X50 VSS a_n42406_5115# a_n42406_6815# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X51 a_n54556_5965# a_n54556_4265# a_n54556_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X52 VSS SEL[2] a_n54556_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X53 VDD SEL[0] a_n52126_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X54 VDD a_n54556_3415# a_n54556_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X55 VDD a_n56986_5965# a_n56986_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X56 VDD a_n42406_1715# a_n42406_3415# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X57 VSS SEL[2] a_n39976_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X58 VDD SEL[2] a_n44836_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X59 a_n39976_5965# a_n39976_4265# a_n39976_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X60 a_n47266_8515# a_n47266_6815# a_n47266_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X61 a_n42406_8515# a_n42406_6815# a_n42406_7665# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X62 VDD a_n52126_5115# a_n52126_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X63 VDD a_n56986_1715# a_n56986_3415# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X64 VSS a_n56986_1715# a_n56986_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X65 VDD SEL[0] a_n54556_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X66 VDD a_n47266_4265# a_n47266_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X67 VSS SEL[1] a_n52126_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X68 VDD SEL[1] a_n52126_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X69 a_n49696_5965# a_n49696_4265# a_n49696_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X70 VSS SEL[2] a_n49696_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X71 a_n44836_5965# a_n44836_4265# a_n44836_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X72 VSS SEL[2] a_n44836_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X73 a_n56986_5115# a_n56986_3415# a_n56986_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X74 VDD a_n54556_5115# a_n54556_6815# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X75 VSS a_n54556_1715# a_n54556_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X76 VSS a_n52126_2565# a_n52126_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X77 VDD a_n42406_4265# a_n42406_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X78 VSS SEL[1] a_n39976_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X79 VDD a_n49696_4265# a_n49696_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X80 a_n47266_5965# SEL[0] a_n47266_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X81 VSS a_n47266_4265# a_n47266_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X82 VDD a_n39976_4265# a_n39976_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X83 a_n42406_5965# a_n42406_3415# a_n42406_5115# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X84 VSS a_n42406_4265# a_n42406_5965# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X85 VSS a_n54556_3415# a_n54556_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X86 VDD a_n54556_1715# a_n54556_3415# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X87 VDD a_n56986_4265# a_n56986_5965# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X88 VSS a_n39976_2565# a_n39976_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X89 VDD a_n49696_7665# EN3 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X90 VDD a_n39976_7665# EN7 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X91 VDD a_n44836_4265# a_n44836_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X92 a_n56986_2565# SEL[0] a_n56986_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X93 VSS SEL[0] a_n52126_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X94 VDD a_n44836_7665# EN5 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X95 VDD a_n51980_5905# a_n52126_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X96 VDD a_n49696_1715# a_n49696_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X97 VSS SEL[1] a_n49696_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X98 VDD SEL[0] a_n39976_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X99 VSS a_n44836_1715# a_n44836_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X100 a_n54556_2565# SEL[0] a_n54556_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X101 VSS SEL[1] a_n56986_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X102 a_n52126_3415# a_n52126_1715# a_n52126_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X103 VSS SEL[2] a_n51980_5905# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X104 VDD SEL[0] a_n44836_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X105 VDD SEL[0] a_n47266_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X106 VSS a_n49696_2565# a_n49696_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X107 VSS a_n47266_1715# a_n47266_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X108 VSS a_n42406_1715# a_n42406_3415# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X109 VSS a_n44836_2565# a_n44836_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X110 VSS SEL[1] a_n54556_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X111 VDD a_n47266_7665# EN4 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X112 VDD SEL[2] a_n54556_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X113 a_n39976_3415# SEL[0] a_n39976_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X114 VDD a_n42406_3415# a_n42406_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X115 VSS a_n47266_3415# a_n47266_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X116 VSS SEL[2] a_n42406_4265# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X117 VDD a_n42406_7665# EN6 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X118 VDD SEL[2] a_n47266_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X119 VDD EN a_n49696_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X120 VDD SEL[2] a_n56986_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X121 VSS SEL[0] a_n49696_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X122 VDD EN a_n39976_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X123 VSS SEL[1] a_n44836_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X124 VDD a_n56986_7665# EN0 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X125 VDD SEL[1] a_n42406_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X126 VDD EN a_n44836_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X127 VDD a_n52126_4265# a_n52126_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X128 a_n47266_2565# SEL[1] a_n47266_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X129 a_n49696_3415# a_n49696_1715# a_n49696_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X130 a_n42406_2565# SEL[0] a_n42406_1715# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X131 a_n44836_3415# SEL[0] a_n44836_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X132 VDD a_n52126_7665# EN2 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X133 VDD SEL[1] a_n56986_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X134 VSS SEL[2] a_n47266_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X135 VSS SEL[1] a_n42406_2565# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X136 VDD a_n54556_4265# a_n54556_5115# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X137 VDD EN a_n47266_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X138 VDD a_n52126_1715# a_n52126_2565# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X139 VDD a_n54556_7665# EN1 VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X140 VDD EN a_n42406_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X141 VSS EN a_n56986_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X142 VDD a_n49696_6815# a_n49696_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X143 VDD a_n49696_2565# a_n49696_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X144 VSS EN a_n52126_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X145 VDD a_n39976_2565# a_n39976_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X146 VDD a_n39976_6815# a_n39976_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X147 VDD SEL[1] a_n54556_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X148 VSS EN a_n54556_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X149 VSS a_n56986_7665# EN0 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X150 VDD EN a_n56986_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X151 VDD a_n44836_2565# a_n44836_4265# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X152 VDD a_n44836_6815# a_n44836_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X153 VSS a_n52126_7665# EN2 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X154 VSS EN a_n39976_8515# VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X155 VSS a_n54556_7665# EN1 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
X156 VDD EN a_n52126_7665# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X157 VDD SEL[0] a_n49696_1715# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X158 VDD SEL[2] a_n51980_5905# VDD pfet_05v0 ad=0.75p pd=4u as=0.385p ps=2.54u w=0.5u l=0.5u
X159 VSS a_n39976_7665# EN7 VSS nfet_05v0 ad=0.365p pd=2.46u as=0.365p ps=2.46u w=0.5u l=0.6u
.ends

.subckt test_v2 VDD VSS IN0 IN1 IN2 IN3 IN4 IN5 IN6 IN7 SEL[2] EN SEL[1] SEL[0] VOUT
Xtest_all_tg_0 VDD VSS test_all_tg_0/EN0 test_all_tg_0/EN1 test_all_tg_0/EN2 test_all_tg_0/EN3
+ test_all_tg_0/EN4 test_all_tg_0/EN5 test_all_tg_0/EN6 test_all_tg_0/EN7 IN0 IN1
+ IN2 IN3 IN4 IN5 IN6 IN7 VOUT test_all_tg_0/Vp test_all_tg
Xtest_decoder$1_0 VDD VSS EN SEL[0] SEL[1] SEL[2] test_all_tg_0/EN0 test_all_tg_0/EN1
+ test_all_tg_0/EN2 test_all_tg_0/EN3 test_all_tg_0/EN4 test_all_tg_0/EN5 test_all_tg_0/EN6
+ test_all_tg_0/EN7 test_decoder$1
.ends

